US07582638B2
Add NaH (60% in mineral oil, unwashed; 6.23 g, 156 mmol) in portions to a solution of 1-chloro-4-nitroisoquinoline (26.0 g, 125 mmol) and 1-tert-butoxycarbonyl-4-hydroxypiperidine (27.6 g, 137 mmol) in THF (350 mL) stirred at room temperature under nitrogen flow. Stir the dark reddish mixture at 40° C. for 1.5 hours then 55° C. for 1.5 hours. Add additional NaH (1.3 g), and stir the resulting mixture at 55° C. for 2 hours then cool to room temperature overnight. Add hexanes (75 mL), then add water (600 mL) slowly. Adjust the reaction mixture to pH 7 with aqueous HCl (1 N), then separate layers. Discard the aqueous layer and add hexanes (200 mL) to the organic layer. Partially concentrate the mixture under reduced pressure to a volume of 50-100 mL. Add diethyl ether (150 mL) and hexanes (250 mL), then filter the resultant slurry. Wash the cake with diethyl ether/hexanes (1:1) and air-dry to provide 4-(4-nitro-isoquinolin-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (33.84 g, 73% yield) as a tan solid. (ES+): m/z 374 (M++H).

reactant | NaH | 156 mmol, 6.23 g | [H-].[Na+]
reactant | 1-chloro-4-nitroisoquinoline | 125 mmol, 26.0 g | ClC1=NC=C(C2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 137 mmol, 27.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | NaH | 1.3 g | [H-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | water | 600 mL | O | H2O
product | 4-(4-nitro-isoquinolin-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 33.84 g, 73% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C2=CC=CC=C12)[N+](=O)[O-] | C19H23N3O5
